US06977315B2
A solution of N,N′-bis[2-(2,4,6-trimethylbenzoyl)-3-oxobutylidene]-(1S,2S)-bis(3,5-dimethylphenyl)ethylene-1,2-diaminato cobalt (II) complexes (7.53 mg, 0.01 mmol, 2 mol %; formula (c-4)) in dichloromethane (2.0 ml) was added into a reaction vessel at room temperature under a nitrogen atmosphere, and was cooled to −70° C. Thereafter, to the reaction vessel were added a solution of 2-naphthaldehyde (78.1 mg, 0.5 mmol) in dichloromethane (1.0 ml), a mixture of nitromethane (1.0 ml, 18.5 mmol) and dichloromethane (1.0 ml), and diisopropylethylamine (64.7 mg, 0.5 mmol) in this order. The reaction mixture was stirred for 76 hours, and THF containing water was then added into the reaction mixture to stop the reaction. After a usual aftertreatment was performed, the resultant crude product was separated and purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give 1-(2-naphthyl)-2-nitroethanol (89.7 mg, yield 83%). The optical purity of the product was analyzed by high performance liquid chromatography (optical activation column: Chiralpak AD-H manufactured by DAICEL CHEMICAL INDUSTRIES, LTD.; EtOH 10% in hexane, flow rate 1.0 ml/min, 254 nm; retention time (−)-isomer 25.1 min, (+)-isomer 30.2 min). As a result, the optical purity was 81% ee. The specific rotation [α]D29 was −30.4° (c 0.90, CH2Cl2).

reactant | 2-naphthaldehyde | 0.5 mmol, 78.1 mg | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
reactant | nitromethane | 18.5 mmol, 1.0 ml | [N+](=O)([O-])C | CH3NO2
reactant | diisopropylethylamine | 0.5 mmol, 64.7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(2-naphthyl)-2-nitroethanol | 89.7 mg, yield 83% | C1=C(C=CC2=CC=CC=C12)C(C[N+](=O)[O-])O | C12H11NO3
